US07176208B2
The quinoxalin-2-one of the present example is prepared with Benzo[1,3]dioxole-5,6-diamine and (thiophen-2-yl) oxo-acetic acid via the method described in Example 12 to afford 7-thiophen-2-yl-5H-1,3-dioxa-5,8-diaza-cyclopenta[b]naphthalen-6-one.

reactant | Benzo[1,3]dioxole-5,6-diamine | O1COC2=C1C=C(C(=C2)N)N | C7H8N2O2
reactant | (thiophen-2-yl) oxo-acetic acid | S1C(=CC=C1)C(C(=O)O)=O | C6H4O3S
product | 7-thiophen-2-yl-5H-1,3-dioxa-5,8-diaza-cyclopenta[b]naphthalen-6-one | S1C(=CC=C1)C=1C(NC=2C=C3C(=CC2N1)OCO3)=O | C13H8N2O3S
